US07947814B2
Synthesis of 4-(dimethylaminoethyl-imino)-2-pentanone
In a procedure analogously to 2,2-dimethyl-5-(dimethylaminoethyl-imino)-3-hexanone, starting with starting with 2,4-pentadione (8.00 g, 80.7 mmol), Na2SO4 (14 g, 98.64 mmol), and 3-(dimethylamino)ethylamine (7.83 g, 88.8 mmol). A green liquid was obtained via vacuum distillation at an oil bath of 95-105° C. under 150 mTorr. The yield was 83%. GC analysis indicated one peak.

reactant | 2,2-dimethyl-5-(dimethylaminoethyl-imino)-3-hexanone | CC(C)(C(CC(C)=NCCN(C)C)=O)C | C12H24N2O
reactant | 2,4-pentadione | 80.7 mmol, 8.00 g | CC(=O)CC(=O)C | C5H8O2
reactant | Na2SO4 | 98.64 mmol, 14 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
product | 4-(dimethylaminoethyl-imino)-2-pentanone | yield was 83% | CN(C)CCN=C(CC(C)=O)C | C9H18N2O
